US05652271
A solution of bromine (4.3 ml) in chloroform (20 ml) was added dropwise over 30 minutes at 10°-15° C. to a stirred solution of 1-[1-(2-naphthyl)cyclobutyl]-ethanone (20 g) in a mixture of methanol (20 ml) and chloroform (30 ml). The mixture was then stirred at ambient temperature for 1.5 hours, poured onto ice-water (300 ml) and the product extracted into dichloromethane (3×150 ml). The extracts were washed with saturated aqueous sodium hydrogen carbonate solution, then water, dried over calcium chloride and the solvent removed in vacuo to give 2-bromo-1-[1-(2-naphthyl)cyclobutyl]-ethanone as an oil (24.0 g).

reactant | bromine | 4.3 ml | BrBr | Br2
reactant | 1-[1-(2-naphthyl)cyclobutyl]-ethanone | 20 g | C1=C(C=CC2=CC=CC=C12)C1(CCC1)C(C)=O | C16H16O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 20 ml | CO | CH4O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-1-[1-(2-naphthyl)cyclobutyl]-ethanone | 24.0 g | BrCC(=O)C1(CCC1)C1=CC2=CC=CC=C2C=C1 | C16H15BrO
